US08871950B1
(2R,3S)-Ethyl 2,3-dihydroxy-3-((R)-1-((R)-1-phenylethyl)aziridin-2-yl)propanoate
To a solution of (2S,3S)-methyl 2,3-dihydroxy-3-((R)-1-((R)-1-phenylethyl)aziridin-2-yl)propanoate (3.3 g, 13.3 mmol) in t-BuOH/H2O (60 mL, 0.2 M/60 mL, 0.2 M) were added AD-mix α (33 g, 1000 w/w %) and methanesulfonamide (1.9 g, 19.9 mmol, 1.5 equiv) at 0° C. The reaction mixture was stirred for 24 hrs and quenched with water. The aqueous layer was extracted with ethyl acetate and the combined organic layer was washed with brine, dried over MgSO4, filtered through a pad of celite, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography with ethyl acetate/hexane (2/3) to afford the title product (diastereomeric mixture, ratio=7/1). Yield: 2.3 g (62%); yellow oil.

reactant | (2S,3S)-methyl 2,3-dihydroxy-3-((R)-1-((R)-1-phenylethyl)aziridin-2-yl)propanoate | 13.3 mmol, 3.3 g | O[C@H](C(=O)OC)[C@H](C1[N@](C1)[C@H](C)C1=CC=CC=C1)O | C14H19NO4
reactant | methanesulfonamide | 19.9 mmol, 1.9 g, 1.5 equiv | CS(=O)(=O)N | CH5NO2S
solvent | t-BuOH H2O | 0.2 M, 60 mL | CC(C)(C)O.O
product | (2R,3S)-Ethyl 2,3-dihydroxy-3-((R)-1-((R)-1-phenylethyl)aziridin-2-yl)propanoate | O[C@@H](C(=O)OCC)[C@H](C1[N@](C1)[C@H](C)C1=CC=CC=C1)O | C15H21NO4
